US07538112B2
Step 2: 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-4-(5-oxopyrrolidin-3-yl)-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
A mixture of methyl 3-[2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazin-4-yl]-3-cyanopropanoate (0.12 g, 0.24 mmol) and Raney nickel (200 mg; washed successively with deionized water until neutral to pH paper and three times with absolute ethanol) in absolute ethanol (35 mL) was subjected to an atmosphere of hydrogen gas at 50 psi in a Parr hydrogenation vessel at room temperature for 48 hours. The product mixture was filtered through a pad of Celite. The filtrate was concentrated under vacuum. The residue was subjected to reverse phase preparative HPLC purification. Collection and lyophilization of appropriate fractions provide the title compound. ES MS M+1=474

reactant | methyl 3-[2-(3-chloro-4-fluorobenzyl)-10-methoxy-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazin-4-yl]-3-cyanopropanoate | 0.24 mmol, 0.12 g | ClC=1C=C(CN2N=C(C3=C(C2=O)C(=C2N3CCN(C2=O)C)OC)C(CC(=O)OC)C#N)C=CC1F | C23H21ClFN5O5
catalyst | Raney nickel | [Ni] | Ni
product | 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-4-(5-oxopyrrolidin-3-yl)-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | ClC=1C=C(CN2N=C(C3=C(C2=O)C(=C2N3CCN(C2=O)C)OC)C2CNC(C2)=O)C=CC1F | C22H21ClFN5O4
